US08957080B2
Synthesis of 2-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidine-1-carbonyl]-3-[(2S)-pyrrolidin-2-yl]prop-2-enenitrile HCl
To a solution of tert-butyl (2S)-2-[3-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidin-1-yl]-2-cyano-3-oxo-prop-1-enyl]pyrrolidine-1-carboxylate (84 mg, 0.13 mmol) in 1,4-dioxane (2 mL) and added 4N HCl in dioxane (0.16 mL). The solution was stirred for 16 hr at room temperature then concentrated. The residue was dissolved in methanol (˜1 mL) and added dropwise to ethyl ether (20 mL) while stirring. The resulting solid was collected by filtration to provide 42 mg (59%) of the title compound as an HCl salt. MS (pos. ion) m/z: 553 (M+1).

reactant | tert-butyl (2S)-2-[3-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidin-1-yl]-2-cyano-3-oxo-prop-1-enyl]pyrrolidine-1-carboxylate | 0.13 mmol, 84 mg | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H]2N(CCC2)C(C(=C[C@H]2N(CCC2)C(=O)OC(C)(C)C)C#N)=O | C35H37FN8O4
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.16 mL | O1CCOCC1 | C4H8O2
product | 2-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxy-phenyl)pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidine-1-carbonyl]-3-[(2S)-pyrrolidin-2-yl]prop-2-enenitrile HCl | 42 mg, 59% | Cl.NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H]2N(CCC2)C(=O)C(C#N)=C[C@H]2NCCC2 | InChI=1S/C30H29FN8O2.ClH/c31-25-15-23(41-22-8-2-1-3-9-22)10-11-24(25)27-26-28(33)35-18-36-29(26)39(37-27)17-21-7-5-13-38(21)30(40)19(16-32)14-20-6-4-12-34-20;/h1-3,8-11,14-15,18,20-21,34H,4-7,12-13,17H2,(H2,33,35,36);1H/t20-,21+;/m0./s1
